US07300944B2
N-{2-tert-Butyl-5-[3-(3-cyclopropylaminomethyl-phenyl)-cyclobutyl]-2H-pyrazol-3-yl}-2,2,2-trifluoro-acetamide Hydrochloride
To a stirring solution of N-{2-tert-butyl-5-[3-(3-formyl-phenyl)-cyclobutyl]-2H-pyrazol-3-yl}-2,2,2-trifluoro-acetamide (0.49 g, 1.25 mmol) in CH2Cl2 (13 mL) was added acetic acid (86 uL, 1.5 mmol), followed by cyclopropylamine (103 uL, 1.5 mmol). After 30 min, sodium triacetoxyborohydride (0.53 g, 2.5 mmol) was added. The reaction was quenched after four hr. with a saturated solution of NaHCO3. The aqueous layer was extracted with CH2Cl2, and the combined organic layers were dried over MgSO4, filtered, and concentrated under reduced pressure. Formation of the hydrochloride salt was accomplished using 2M HCl in Et2O to give the title compound (0.53 g). This material was used without further purification.

reactant | N-{2-tert-butyl-5-[3-(3-formyl-phenyl)-cyclobutyl]-2H-pyrazol-3-yl}-2,2,2-trifluoro-acetamide | 1.25 mmol, 0.49 g | C(C)(C)(C)N1N=C(C=C1NC(C(F)(F)F)=O)C1CC(C1)C1=CC(=CC=C1)C=O | C20H22F3N3O2
reactant | acetic acid | 1.5 mmol, 86 uL | C(C)(=O)O | C2H4O2
reactant | cyclopropylamine | 1.5 mmol, 103 uL | C1(CC1)N | C3H7N
reactant | sodium triacetoxyborohydride | 2.5 mmol, 0.53 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | CH2Cl2 | 13 mL | C(Cl)Cl | CH2Cl2
product | N-{2-tert-Butyl-5-[3-(3-cyclopropylaminomethyl-phenyl)-cyclobutyl]-2H-pyrazol-3-yl}-2,2,2-trifluoro-acetamide Hydrochloride | 0.53 g | Cl.C(C)(C)(C)N1N=C(C=C1NC(C(F)(F)F)=O)C1CC(C1)C1=CC(=CC=C1)CNC1CC1 | InChI=1S/C23H29F3N4O.ClH/c1-22(2,3)30-20(28-21(31)23(24,25)26)12-19(29-30)17-10-16(11-17)15-6-4-5-14(9-15)13-27-18-7-8-18;/h4-6,9,12,16-18,27H,7-8,10-11,13H2,1-3H3,(H,28,31);1H
